US06509329B1
Synthesis of N,N′-bis[[6-(3,4,5-Trimethoxyphenyl)-pyrimidin-4-yl]methyl]piperazine
4-Chloromethyl-6-(3,4,5-trimethoxyphenyl)pyrimidine (126 mg) and piperazine (18 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 4-Chloromethyl-6-(3,4,5-trimethoxyphenyl)pyrimidine | 126 mg | ClCC1=NC=NC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C14H15ClN2O3
reactant | piperazine | 18 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[6-(3,4,5-Trimethoxyphenyl)-pyrimidin-4-yl]methyl]piperazine | COC=1C=C(C=C(C1OC)OC)C1=CC(=NC=N1)CN1CCN(CC1)CC1=NC=NC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C32H38N6O6
